US07662830B2
3. 5-Chloro-6-{4-[6-(3-chloro-4-fluoro-phenyl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-nicotinic acid ethyl ester
Bubble nitrogen through a mixture of 5-chloro-6-[4-(6-chloro-pyrimidin-4-yl)-3-(R)-methyl-piperazin-1-yl]-nicotinic acid ethyl ester (226 mg, 0.57 mmol), 3-chloro-4-fluorophenylboronic acid (99 mg, 0.57 mmol), K3PO4 (2M aqueous, 570 μL) and Pd(PPh3)4 (33 mg, 0.03 mmol) in dioxane for 10 mm. Heat the mixture to 80°C. for 16 h under a nitrogen atmosphere. Cool the mixture and partition between EtOAc and water. Dry (Na2SO4) the organic layer and concentrate under reduced pressure to yield the crude product. Purify the residue with preparative plate chromatography (2×2 mm thick) using 40% EtOAc/hexanes as the eluent to afford the title compound as a foam. 1H NMR (400 MHz, CDCl3): δ1.38 (m, 6H, 2 ×CH3), 3.16 (m, 1H), 3.31 (dd, 1H, J=11 Hz), 3.51 (m, 1H), 4.12 (d, 1H, J=12.8 Hz), 4.21 (d, 1H, J=13 Hz), 4.39 (m, 3H), 4.77 (Br s, 1H), 6.82 (s, 1H), 7.25 (m, 1H), 7.89 (m, 1H), 8.07 (d, 1H, J=7 Hz), 8.18 (s, 1H), 8.71 (s, 1H), 8.79 (s, 1H).

reactant | 5-chloro-6-[4-(6-chloro-pyrimidin-4-yl)-3-(R)-methyl-piperazin-1-yl]-nicotinic acid ethyl ester | 0.57 mmol, 226 mg | C(C)OC(C1=CN=C(C(=C1)Cl)N1C[C@H](N(CC1)C1=NC=NC(=C1)Cl)C)=O | C17H19Cl2N5O2
reactant | 3-chloro-4-fluorophenylboronic acid | 0.57 mmol, 99 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | K3PO4 | 2M, 570 μL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Chloro-6-{4-[6-(3-chloro-4-fluoro-phenyl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-nicotinic acid ethyl ester | C(C)OC(C1=CN=C(C(=C1)Cl)N1C[C@H](N(CC1)C1=NC=NC(=C1)C1=CC(=C(C=C1)F)Cl)C)=O | C23H22Cl2FN5O2
